US04420487
Preparation of 5-Chloro-2-(4-Methylbenzyl)-6-Sulfamyl-1H-Benzimidazole
To 150 ml of 6 N hydrochloric acid was added 17.7 g of 2-amino-4-chloro-5-sulfamylaniline followed by the addition of 15.7 g of 4-methylbenzyl cyanide; the mixture was then refluxed for 9 hours. The precipitate was collected by filtration and added to 300 ml of concentration ammonium hydroxide. After stirring for ten minutes at ambient temperature, the solid was collected and then added to 300 ml of water and stirred at 40° C. for ten minutes. The crude product was collected and dissolved in 1 liter of methanol which was brought to a boil; after stirring for five minutes, charcoal was added, and stirring continued for ten more minutes. The mixture was then filtered through two sheets of filter paper and then through Celite. Concentration in vacuo provided a solid which upon recrystallization from acetonitrile provided 3.0 g of pink crystals, m.p. 214°-217°.

reactant | 2-amino-4-chloro-5-sulfamylaniline | 17.7 g | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | 4-methylbenzyl cyanide | 15.7 g | CC1=CC=C(CC#N)C=C1 | C9H9N
solvent | hydrochloric acid | 6 N, 150 ml | Cl | ClH
product | 5-Chloro-2-(4-Methylbenzyl)-6-Sulfamyl-1H-Benzimidazole | 3.0 g | ClC1=CC2=C(NC(=N2)CC2=CC=C(C=C2)C)C=C1S(N)(=O)=O | C15H14ClN3O2S
